US05792763
N,N-dimethyl-5-amino-2-pentanone
A mixture of 21.77 gm (180.5 mMol) 5-chloro-2-pentanone, 13.40 gm (164.3 mMol) dimethylamine hydrochloride and 50.0 gm (361.8 mMol) potassium carbonate in 150 mL acetonitrile was stirred at room temperature for 2 days and then at reflux for 2 hours. The reaction mixture was then cooled to room temperature and partitioned between water and dichloromethane. The phases were separated and the aqueous phase again extracted with dichloromethane. All organic phases were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with dichloromethane containing 10% methanol and 1% ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure. The desired product was then isolated by distillation.

reactant | 5-chloro-2-pentanone | 180.5 mMol, 21.77 gm | ClCCCC(C)=O | C5H9ClO
reactant | dimethylamine hydrochloride | 164.3 mMol, 13.40 gm | Cl.CNC
reactant | potassium carbonate | 361.8 mMol, 50.0 gm | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | N,N-dimethyl-5-amino-2-pentanone | CN(CCCC(C)=O)C | C7H15NO
